US07834039B2
Under an atmosphere of nitrogen, 4-isopropoxy-3-(trifluoromethyl)benzonitrile (6.5 g, 28.4 mmol) and 50% aqueous hyroxylamine (5.21 mL, 85 mmol) in EtOH (20.0 mL) was heated at 60° C. for 18 hr. Solvents removed in vacuo and the residue was azeotroped with MeOH. The residual solid was purified by precipitation from an ethyl acetate/30-600 C pet/ether mixture (1:2) to give (Z)-N′-hydroxy-4-isopropoxy-3-(trifluoromethyl)benzimidamide (2.51 g, 33.8%) LCMS (Table 1, Method b) Rt=1.89 min, m/z 263.13 (M+H)+.

reactant | 4-isopropoxy-3-(trifluoromethyl)benzonitrile | 28.4 mmol, 6.5 g | C(C)(C)OC1=C(C=C(C#N)C=C1)C(F)(F)F | C11H10F3NO
reactant | hyroxylamine | 85 mmol, 5.21 mL | NO | H3NO
solvent | EtOH | 20.0 mL | CCO | C2H6O
product | (Z)-N′-hydroxy-4-isopropoxy-3-(trifluoromethyl)benzimidamide | 2.51 g, 33.8% | O\N=C(\C1=CC(=C(C=C1)OC(C)C)C(F)(F)F)/N | C11H13F3N2O2
